US07326723B2
1,2,3,6,7,8-Hexahydro-5H-cyclopenta[b]naphthalen-5-one
A suspension of 61 g (0.457 mol) of anhydrous AlCl3 in 188 ml of a dichloromethane/nitromethane=8/1 mixture is cooled to 0-5° C. and 22.15 g of indan and, in portions, 22.5 g (0.225 mol) of succinic anhydride are added thereto. After one hour at 0° C., the medium is poured into a water/ice mixture, hydrochloric acid at 37% is added until a clear solution is obtained. The medium is extracted with ethyl acetate, washed with water, the organic phase is dried and the solvent is evaporated off under reduced pressure. A white solid is obtained which is dissolved in 500 ml of dioxane. 4.6 ml of sulfuric acid at 98% in 50 ml of ethanol and 3.6 g of 10% Pd/C are added thereto. After 5 hours under a hydrogen atmosphere, the catalyst is filtered off, the solvent is evaporated off, the residue is taken up in water and the medium is extracted with ethyl acetate. The product obtained is dissolved in 20 ml of methanol and 8 ml of a 1 N aqueous sodium hydroxide solution are added thereto and the medium is stirred at room temperature for 2 hours. The solvent is evaporated off, water is added, the medium is brought to an acidic pH, it is extracted and a white solid is isolated. 38.7 g of this product are dissolved in 1000 ml of anhydrous methylene chloride under a nitrogen atmosphere; the medium is cooled to 0° C. and 47 g (0.225 mol) of PCl3 are carefully added thereto, the medium is stirred at 0° C. for two hours and 121.8 g (0.467 mol) of SnCl4 are slowly added thereto and, after 10 minutes, the medium is allowed to heat up to room temperature. After two hours at room temperature, the medium is poured into a water/ice mixture, extracted with methylene chloride and an oil is isolated which is then purified by chromatography on a silica gel column, eluting with a cyclohexane/ethyl acetate=8/2 mixture. 6.0 g of the title compound are obtained.

reactant | AlCl3 | 0.457 mol, 61 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | indan | 22.15 g | C1CCC2=CC=CC=C12 | C9H10
reactant | succinic anhydride | 0.225 mol, 22.5 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | hydrochloric acid | Cl | ClH
reactant | sulfuric acid | 4.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | PCl3 | 0.225 mol, 47 g | P(Cl)(Cl)Cl | Cl3P
reactant | SnCl4 | 0.467 mol, 121.8 g | Cl[Sn](Cl)(Cl)Cl
solvent | dichloromethane nitromethane | 188 ml | ClCCl.[N+](=O)([O-])C
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | methanol | 20 ml | CO | CH4O
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 3.6 g | [Pd] | Pd
product | 1,2,3,6,7,8-Hexahydro-5H-cyclopenta[b]naphthalen-5-one | 6.0 g | C1CCC=2C1=CC=1CCCC(C1C2)=O | C13H14O
